US06825200B1
tert-Butoxy-N-[2-[4-(4-chlorophenyl)-1-piperazinyl]-2-oxoethyl]formamide
To a suspension of 2-(tert-butoxycarbonylamino)acetic acid (16.3 g) and 1-(4-chlorophenyl)piperazine hydrochloride (21.7 g) in N,N-dimethylformamide (200 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (19.6 g) and N-hydroxybenzotriazole (13.8 g) at 0° C. To this suspension was added dropwise triethylamine (10.4 g). The mixture was stirred at room temperature for 20 hours. The reaction mixture was poured into ice-cold water and the resulting solid was collected by filtration. The solid was washed successively with saturated aqueous sodium hydrogencarbonate solution and water. The solid was dried to give the title compound (29 g).

reactant | 2-(tert-butoxycarbonylamino)acetic acid | 16.3 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-(4-chlorophenyl)piperazine hydrochloride | 21.7 g | Cl.ClC1=CC=C(C=C1)N1CCNCC1
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 19.6 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxybenzotriazole | 13.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 10.4 g | C(C)N(CC)CC | C6H15N
product | tert-Butoxy-N-[2-[4-(4-chlorophenyl)-1-piperazinyl]-2-oxoethyl]formamide | 29 g | C(C)(C)(C)ON(C=O)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C17H24ClN3O3
